US07851114B2
Synthesis of 1,2-dihydroxy-3-[4′-(di-p-tolylamino)stilbene-4-yloxy]propane
In a reaction vessel equipped with a stirrer, a thermometer, a condenser, and a dropping funnel, 11.75 g of 4-hydroxy-4′-(di-p-tolylamino)stilbene, 4.35 g of glycidyl methacrylate, and 8 ml of toluene are contained, and the mixture is heated to 90° C. Further, 0.16 g of triethylamine is added thereto, and the mixture is agitated for 8 hours at 95° C. Next, 16 ml of toluene and 20 ml of a 10% aqueous solution of sodium hydroxide are added thereto, and the mixture is further agitated for 8 hours at 95° C.

reactant | 4-hydroxy-4′-(di-p-tolylamino)stilbene | 11.75 g | OC1=CC=C(C=C1)C=CC1=CC=C(C=C1)N(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C | C28H25NO
reactant | glycidyl methacrylate | 4.35 g | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | toluene | 16 ml | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 0.16 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
product | 1,2-dihydroxy-3-[4′-(di-p-tolylamino)stilbene-4-yloxy]propane | OCC(COC1=CC=C(C=C1)C=CC1=CC=C(C=C1)N(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)O | C31H31NO3
